** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/OTA5174.sch
.subckt OTA5174 clk DVDD gnd vop vom bv vinp vinm AVDD
*.PININFO clk:B DVDD:B gnd:B vop:B vom:B bv:B vinp:B vinm:B AVDD:B
x1 AVDD AVDD CLK DVDD GND VOP VOM BV VINP VINM digital_pulse_ina_temp_TOP
.ends

* expanding   symbol:  digital_pulse_ina_temp_TOP.sym # of pins=10
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/digital_pulse_ina_temp_TOP.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/digital_pulse_ina_temp_TOP.sch
.subckt digital_pulse_ina_temp_TOP VDD AVDD clk DVDD gnd vop vom bv vinp vinm
*.PININFO clk:B DVDD:B gnd:B vop:B vom:B bv:B vinp:B vinm:B AVDD:B VDD:B
x1 PHI1 vinp PHI2 vinm PHI3 vop PHI4 vom gnd bv VICM_REF VCM_REF AVDD imp_boost_tech
x2 clk DVDD gnd phi1 phi2 phi3 phi4 pulse_gen_circuit
x3 VDD bv gnd VCM_REF VICM_REF vcm_ref_vicm_ref_gen
.ends


* expanding   symbol:  imp_boost_tech.sym # of pins=13
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/imp_boost_tech.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/imp_boost_tech.sch
.subckt imp_boost_tech phi1 vinp phi2 vinm phi3 vop phi4 vom gnd bv VICM_REF VCM_REF vdd
*.PININFO vinp:B vinm:B vop:B vom:B phi1:B phi2:B phi3:B phi4:B VICM_REF:B bv:B gnd:B vdd:B VCM_REF:B
C4 net7 net2 cap_cmim w=26e-6 l=12.8e-6 m=2
C5 net8 net1 cap_cmim w=26e-6 l=12.8e-6 m=2
C9 net3 net4 cap_cmim w=5.7e-6 l=5.7e-6 m=2
x8 phi1 net9 vinp phi2 net10 vinm gnd CHOPPER
x1 phi3 net2 net9 phi4 net1 net10 gnd CHOPPER
x3 phi3 ota_vinp net7 phi4 ota_vinm net8 gnd CHOPPER
x4 phi1 net5 ota_vinp phi2 net4 ota_vinm gnd CHOPPER
x5 phi1 ota_vop net6 phi2 ota_vom net3 gnd CHOPPER
x6 phi1 vom ota_vop phi2 vop ota_vom gnd CHOPPER
x7 vdd VCM_REF ota_vop ota_vom gnd bv ota_vinm ota_vinp VICM_REF Differntial_ended_symbol_making
C2 net6 net5 cap_cmim w=5.7e-6 l=5.7e-6 m=2
.ends


* expanding   symbol:  Clock_gen_using_transistor_hv/pulse_gen_circuit.sym # of pins=7
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/pulse_gen_circuit.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/pulse_gen_circuit.sch
.subckt pulse_gen_circuit clk vdd gnd phi1 phi2 phi3 phi4
*.PININFO vdd:B gnd:B phi1:B phi2:B phi3:B phi4:B clk:B
x1 vdd x out1 gnd phi3 and
x2 vdd y net1 gnd phi4 and
x4 vdd phi2 clk gnd x nor
x6 vdd clk_bar phi1 gnd y nor
x7 clk clk_bar vdd gnd inverter
x8 phi1 out1 vdd gnd buffer
x9 phi2 net1 vdd gnd buffer
x3 x phi1 vdd gnd buffer
x5 y phi2 vdd gnd buffer
.ends


* expanding   symbol:  vcm_ref_vicm_ref_gen.sym # of pins=5
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/vcm_ref_vicm_ref_gen.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/vcm_ref_vicm_ref_gen.sch
.subckt vcm_ref_vicm_ref_gen vdd b_v gnd vcm vicm
*.PININFO vicm:B vdd:B vcm:B b_v:B gnd:B
M6 net1 net1 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M13 net1 pos net2 vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M14 vicm net1 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M15 vicm vicm net2 vdd sg13_hv_pmos w=2.25u l=0.5u ng=1 m=2
M16 net2 b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=4
M17 net1 pos net2 vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M1 vdd vdd pos gnd sg13_hv_nmos w=10u l=0.45u ng=1 m=1
M2 pos vdd gnd gnd sg13_hv_nmos w=0.3u l=3.7u ng=1 m=1
M3 net3 net3 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M4 net3 pos1 net4 vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M5 vcm net3 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M7 vcm vcm net4 vdd sg13_hv_pmos w=2.25u l=0.5u ng=1 m=2
M8 net4 b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=4
M9 net3 pos1 net4 vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M10 vdd vdd pos1 gnd sg13_hv_nmos w=0.8u l=0.45u ng=1 m=1
M11 pos1 vdd gnd gnd sg13_hv_nmos w=0.3u l=1.4u ng=1 m=1
C1 vicm gnd cap_cmim w=7.0e-6 l=7.0e-6 m=1
C2 vcm gnd cap_cmim w=7.0e-6 l=7.0e-6 m=1
.ends


* expanding   symbol:  CHOPPER.sym # of pins=7
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/CHOPPER.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/CHOPPER.sch
.subckt CHOPPER PHIA OUT_A IN_A PHIB OUT_B IN_B GND
*.PININFO IN_A:B IN_B:B OUT_B:B OUT_A:B PHIA:B PHIB:B GND:B
M1 OUT_A PHIA IN_A GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M2 OUT_B PHIA IN_B GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M3 OUT_B PHIB IN_A GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M4 IN_B PHIB OUT_A GND sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  Differntial_ended_symbol_making.sym # of pins=9
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Differntial_ended_symbol_making.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Differntial_ended_symbol_making.sch
.subckt Differntial_ended_symbol_making vdd vcm_ref vom vop gnd b_v vinm vinp VICM_REF
*.PININFO b_v:B vinm:B vcm_ref:B vinp:B vop:B vom:B gnd:B vdd:B VICM_REF:B
M7 vop nbias gnd gnd sg13_hv_nmos w=2u l=2u ng=1 m=2
M8 vop vinm tail vdd sg13_hv_pmos w=4.5u l=1u ng=1 m=2
M9 vom nbias gnd gnd sg13_hv_nmos w=2u l=2u ng=1 m=2
M10 vom vinp tail vdd sg13_hv_pmos w=4.5u l=1u ng=1 m=2
M11 tail b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=4
M6 net1 net1 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M13 net1 vop tail_cmfb vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M14 nbias net1 gnd gnd sg13_hv_nmos w=1u l=0.5u ng=1 m=1
M15 nbias vcm_ref tail_cmfb vdd sg13_hv_pmos w=2.25u l=0.5u ng=1 m=2
M16 tail_cmfb b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=4
M17 net1 vom tail_cmfb vdd sg13_hv_pmos w=2.25u l=0.50u ng=1 m=1
M1 b_v b_v vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=1
C1 nbias gnd cap_cmim w=14.0e-6 l=50.0e-6 m=1
M2 VICM_REF vinm vinm vdd sg13_hv_pmos w=50u l=1u ng=5 m=1
M3 VICM_REF vinp vinp vdd sg13_hv_pmos w=50u l=1u ng=5 m=1
M4 vdd vdd vdd vdd sg13_hv_pmos w=4.5u l=0.4u ng=1 m=4
M5 gnd gnd gnd gnd sg13_hv_nmos w=2u l=2u ng=1 m=4
.ends


* expanding   symbol:  Clock_gen_using_transistor_hv/and.sym # of pins=5
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/and.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/and.sch
.subckt and vdd B A gnd out
*.PININFO vdd:B B:B A:B gnd:B out:B
M3 net1 A vdd vdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
M1 net2 B gnd gnd sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M2 net1 A net2 gnd sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M4 net1 B vdd vdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
M5 out net1 vdd vdd sg13_hv_pmos w=0.6u l=0.9u ng=1 m=1
M6 out net1 gnd gnd sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  Clock_gen_using_transistor_hv/nor.sym # of pins=5
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/nor.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/nor.sch
.subckt nor vdd B A gnd out
*.PININFO vdd:B B:B A:B gnd:B out:B
M3 net1 A vdd vdd sg13_hv_pmos w=1.2u l=1.8u ng=1 m=1
M1 out B gnd gnd sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M2 out A gnd gnd sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
M4 out B net1 vdd sg13_hv_pmos w=1.2u l=1.8u ng=1 m=1
.ends


* expanding   symbol:  Clock_gen_using_transistor_hv/inverter.sym # of pins=4
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/inverter.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/inverter.sch
.subckt inverter in out vdd gnd
*.PININFO in:B vdd:B out:B gnd:B
M3 out in vdd vdd sg13_hv_pmos w=0.6u l=0.9u ng=1 m=1
M1 out in gnd gnd sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  Clock_gen_using_transistor_hv/buffer.sym # of pins=4
** sym_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/buffer.sym
** sch_path: /home/designer/shared/UNI-CASS_Project_2025_IIT_DH_check2/Clock_gen_using_transistor_hv/buffer.sch
.subckt buffer in out vdd gnd
*.PININFO in:B out:B vdd:B gnd:B
x1 in net1 vdd gnd inverter
x2 net1 net2 vdd gnd inverter
x3 net2 net3 vdd gnd inverter
x4 net3 out vdd gnd inverter
C1 net1 gnd cap_cmim w=7.0e-6 l=7.0e-6 m=1
.ends

